US05635509
4-[(1RS,2RS)-2-(3,4-Dichlorophenyl)-1-hydroxy-4-(4-hydroxy-4-phenylpiperidino)butyl]-3-phenyl-1H-pyrazole
A solution of 4-[2-(3,4-dichlorophenyl)-4-(4-hydroxy-4-phenylpiperidino)butyroyl]-3-phenyl-1H-pyrazole (95 mg), prepared as described in Example 3, in methanol (3 mL) was cooled to 0° C. and treated with sodium borohydride (9 mg). The mixture was allowed to warm to room temperature and was stirred for 1 hour. The solvent was evaporated and the residue partitioned between water and ethyl acetate. The organic extracts were washed (water, brine) combined, dried, and evaporated to afford a white foam. Trituration with ether:hexane (1:2) afforded the title compound as a white solid (62 mg); mp 133°-135° C.; NMR: 7.57-7.23 (m,13), 7.03 (m,1), 5.11 (d,1), 3.04 (m,1), 2.86 (m,2), 2.51 (m,2), 2.37 (m,2), 2.23 (m,2), 1.94 (m,1), 1.81-1.60 (m,3); MS: m/z=536(M+1). Analysis for C30H31Cl2N3O2 ·1.00 H2O: Calculated: C, 64.98; H, 5.82; N, 7.83; Found: C, 64.91; H, 5.74; N, 7.53.

reactant | 4-[2-(3,4-dichlorophenyl)-4-(4-hydroxy-4-phenylpiperidino)butyroyl]-3-phenyl-1H-pyrazole | 95 mg | ClC=1C=C(C=CC1Cl)C(C(=O)C=1C(=NNC1)C1=CC=CC=C1)CCN1CCC(CC1)(C1=CC=CC=C1)O | C30H29Cl2N3O2
reactant | sodium borohydride | 9 mg | [BH4-].[Na+]
reactant | ether hexane | CCOCC.CCCCCC
solvent | methanol | 3 mL | CO | CH4O
product | 4-[(1RS,2RS)-2-(3,4-Dichlorophenyl)-1-hydroxy-4-(4-hydroxy-4-phenylpiperidino)butyl]-3-phenyl-1H-pyrazole | 62 mg | ClC=1C=C(C=CC1Cl)C(C(O)C=1C(=NNC1)C1=CC=CC=C1)CCN1CCC(CC1)(C1=CC=CC=C1)O | C30H31Cl2N3O2
